US04532349
4'-(m-Chlorophenylsulfonyl)-2-methylamino-acetanilide
A mixture of 6.0 g of 3-chlorophenyl-4'-(m-chlorophenylsulfonyl)acetanilide, 1100 ml of methylamine and 20 ml of ethanol was refluxed for 3.5 hours. The solvent was evaporated and the residue partitioned between dichloromethane and water. The dichloromethane portion was evaporated and the residue crystallized from ethanol giving 2.48 g of the desired product, mp 110°-112° C.

reactant | 3-chlorophenyl-4'-(m-chlorophenylsulfonyl)acetanilide | 6.0 g | ClC=1C=C(C=CC1)CC(=O)NC1=CC=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)Cl | C20H15Cl2NO3S
reactant | methylamine | 1100 ml | CN | CH5N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4'-(m-Chlorophenylsulfonyl)-2-methylamino-acetanilide | ClC=1C=C(C=CC1)S(=O)(=O)C1=CC=C(NC(CNC)=O)C=C1 | C15H15ClN2O3S
